US05123951
Mon-ethyl methoxy(methyl)malonate (14.52 grams, 0.08 mole) was reacted with thionyl chloride (19.61 grams, 0.16 mole) at 50° C. for a 13-hour reaction period with an additional holding period of approximately 32 hours at room temperature. Vacuum evaporation of the excess thionyl chloride gave 15.2 grams (0.08 mole) of ethyl 2-(chlorocarbonyl)-2-methoxypropionate. NMR analysis of the product indicated the following:

reactant | ethyl methoxy(methyl)malonate | 0.08 mole, 14.52 grams | COC(C(=O)OCC)(C(=O)[O-])C
reactant | thionyl chloride | 0.16 mole, 19.61 grams | S(=O)(Cl)Cl | Cl2OS
product | ethyl 2-(chlorocarbonyl)-2-methoxypropionate | 0.08 mole, 15.2 grams | ClC(=O)C(C(=O)OCC)(C)OC | C7H11ClO4
